US08053453B2
1-(1-(3,4-Dimethylphenyl)-5-hydroxy-3-trifluoromethyl-1H-pyrazol-4-yl)-ethanone (0.173 mmol, 51.5 mg) and 2,4-dihydroxybenzoic hydrazide (0.173 mmol, 30.6 mg) were stirred in ethanol (5 ml) at 80° C. for 19 hours. After the solvent was removed by evaporation, the residue was dried with a vacuum pump and filtered with chloroform, and the filtrate was concentrated and resolved by silica gel thin layer chromatography (CHCl3/MeOH=10/1) to obtain 2,4-dihydroxybenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide as a pale yellow solid (67 mg, yield 87%, purity 80.7%).

reactant | 1-(1-(3,4-Dimethylphenyl)-5-hydroxy-3-trifluoromethyl-1H-pyrazol-4-yl)-ethanone | 0.173 mmol, 51.5 mg | CC=1C=C(C=CC1C)N1N=C(C(=C1O)C(C)=O)C(F)(F)F | C14H13F3N2O2
reactant | 2,4-dihydroxybenzoic hydrazide | 0.173 mmol, 30.6 mg | OC1=C(C(=O)NN)C=CC(=C1)O | C7H8N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2,4-dihydroxybenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | yield 87% | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=C(C)NNC(C1=C(C=C(C=C1)O)O)=O)C(F)(F)F | C21H19F3N4O4
